US07220877B2
A solution of E)(E)(S) 3-{4-[3-(4′-{3-[(tert-butyidimethylsilanyl)-methoxy]-1-methylpropenyl}-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester (1.18 g, 1.84 mmol) in dry THF was cooled on ice and slowly added a 1.1M solution of tetrabutylammonium fluoride in THF (1.93 mL, 1.93 mmol). The reaction mixture was stirred at room temperature for 3 h. The mixture was diluted with water and ethyl acetate, the aqueous layer collected and further extracted with ethyl acetate. The organic layers were combined, washed with brine, dried (MgSO4) and evaporated to give 0.94 g of (E)(E)(S) 2-ethoxy-3-(4-{3-[4′-{3-hydroxy-1-methyl-propenyl)-biphenyl-4-yl]-but-2-enyloxy}-phenyl)-propionic acid ethyl ester.

reactant | (E)(S) 3-{4-[3-(4′-{3-[(tert-butyidimethylsilanyl)-methoxy]-1-methylpropenyl}-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 1.84 mmol, 1.18 g | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=CC=C(C=C1)C(=CCOC[Si](C)(C)C(C)(C)C)C)OCC)=O | C40H54O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1.93 mmol, 1.93 mL | C1CCOC1 | C4H8O
product | (E)(E)(S) 2-ethoxy-3-(4-{3-[4′-{3-hydroxy-1-methyl-propenyl)-biphenyl-4-yl]-but-2-enyloxy}-phenyl)-propionic acid ethyl ester | 0.94 g | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=CC=C(C=C1)\C(=C\CO)\C)OCC)=O | C33H38O5
